US06982348B2
6) 3-hydroxy-3-(5-phenoxypyridin-2-yl)-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid
To a solution of benzyl 3-hydroxy-3-(5-phenoxypyridin-2-yl)-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid (5.07 g, 9.09 mmol, crude) in ethanol (500 ml) was added 10% palladium/carbon (containing water by 50%) (500 mg), and the mixture was stirred overnight under a 1 atm hydrogen stream. The reaction solution was filtered with celite, and the filtrate was concentrated to give the objective substance (4.22 g, 100%, crude). The present compound was used for the next reaction as a crude compound.

reactant | benzyl 3-hydroxy-3-(5-phenoxypyridin-2-yl)-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid | 9.09 mmol, 5.07 g | C(C1=CC=CC=C1)C(C(=O)O)(C(C1=NC=C(C=C1)OC1=CC=CC=C1)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C30H25F4NO5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 500 mg | [Pd] | Pd
product | 3-hydroxy-3-(5-phenoxypyridin-2-yl)-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid | OC(C(C(=O)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F)C1=NC=C(C=C1)OC1=CC=CC=C1 | C23H19F4NO5
